US08314088B2
(2R)-1-[benzyl({3-chloro-5-[cyclobutyl(methyl)amino]pyrazin-2-yl}methyl)amino]-3-methoxypropan-2-ol
To a solution of 3-chloro-5-[cyclobutyl(methyl)amino]pyrazine-2-carbaldehyde (451 mg), (2R)-1-(benzylamino)-3-methoxypropan-2-ol (469 mg) and acetic acid (343 μL) in acetonitrile (10 mL) was added sodium triacetoxyborohydride (636 mg), and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added dropwise a saturated sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (solvent gradient: 10→50% ethyl acetate/hexane) to give the title compound (674 mg, 83%).

reactant | 3-chloro-5-[cyclobutyl(methyl)amino]pyrazine-2-carbaldehyde | 451 mg | ClC=1C(=NC=C(N1)N(C)C1CCC1)C=O | C10H12ClN3O
reactant | (2R)-1-(benzylamino)-3-methoxypropan-2-ol | 469 mg | C(C1=CC=CC=C1)NC[C@H](COC)O | C11H17NO2
reactant | sodium triacetoxyborohydride | 636 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetic acid | 343 μL | C(C)(=O)O | C2H4O2
product | (2R)-1-[benzyl({3-chloro-5-[cyclobutyl(methyl)amino]pyrazin-2-yl}methyl)amino]-3-methoxypropan-2-ol | 674 mg, 83% | C(C1=CC=CC=C1)N(C[C@H](COC)O)CC1=NC=C(N=C1Cl)N(C)C1CCC1 | C21H29ClN4O2
